US04093743
Synthesis of o-trifluoromethyl-m'-isopropoxybenzoic anilide.
To a tetrahydrofuran solution containing 1.5 g (0.01 mole) of m-isopropoxyaniline and 1.2 g (0.011 mole) of triethylamine, while being cooled in ice water, was added slowly 2.3 g (0.011 mole) of o-trifluoromethylbenzoyl chloride. After having been stirred for 2 hours at room temperature, the reaction mixture was freed from triethylamine hydrochloride by filtration and then from the solvent by distillation under reduced pressure. The residue was recrystallized from n-hexane to obtain 2.9 g (91% yield) of the intended product melting at 95° to 97° C.

reactant | m-isopropoxyaniline | 0.01 mole, 1.5 g | C(C)(C)OC=1C=C(N)C=CC1 | C9H13NO
reactant | triethylamine | 0.011 mole, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | o-trifluoromethylbenzoyl chloride | 0.011 mole, 2.3 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | o-trifluoromethyl-m'-isopropoxybenzoic anilide | 2.9 g, 91% yield | CC(C)OC1=CC=CC(=C1)NC(=O)C2=CC=CC=C2C(F)(F)F | C17H16F3NO2
